US05789179
N-[2-hydroxy-1-(hydroxymethyl)-2-(4-aminophenyl)ethyl] acetamide.
In a clean, round bottom flask N-[2-hydroxy-1-(hydroxymethyl)-2-(4-nitrophenyl)ethyl] acetamide (1.27 g 5 mmoles) was dissolved in methanol (50 ml). The flask was then fitted with a suitable adaptor and coupled to an hydrogenation apparatus. The atmosphere in the flask was then replaced with nitrogen. The adaptor was then removed and 10% palladium on carbon catalyst (466 mg) was added to the flask. The adaptor was replaced and the hydrogenation apparatus manipulated to replace the atmosphere in the flask with hydrogen. The flask contents were then stirred at room temperature under an atmosphere of hydrogen overnight. The hydrogenation apparatus was manipulated to replace the atmosphere in the flask with nitrogen. The flask was then disconnected from the hydrogenation apparatus.

reactant | N-[2-hydroxy-1-(hydroxymethyl)-2-(4-nitrophenyl)ethyl] acetamide | 5 mmoles, 1.27 g | OC(C(CO)NC(C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O5
solvent | methanol | 50 ml | CO | CH4O
product | N-[2-hydroxy-1-(hydroxymethyl)-2-(4-aminophenyl)ethyl] acetamide | OC(C(CO)NC(C)=O)C1=CC=C(C=C1)N | C11H16N2O3
